US06323344B1
A crude solution of 4-chloro-N-methyl-N-phenyl-2-(2-pyrrolyl)butanamide in toluene from the preceding step was added dropwise at 85° C. over 40 minutes to 1 hour to a stirred suspension of ALIQUAT® 336 (2.01 g, 2 mol % with respect to pyrrolylbutanamide) and granular sodium hydroxide (29.9 g, 750 mmol, 3 equivalents) in toluene (50 mL). After the addition was complete, the suspension was stirred under a nitrogen atmosphere at a temperature of 85° C. for 30 minutes, then cooled to 35° C. Cooled water (200 mL) was rapidly added to the mixture and stirred for 15 minutes at 25° C. The solution was rinsed with water and the layers were separated. The organic layer was washed with water (2×100 mL), then distilled under atmospheric pressure to recover the toluene and water. The resultant solution was cooled to 50° C. and allowed to crystallize after the addition of hexane (2×50 mL) and a seed crystal. The suspension was cooled to 5° C. and stirred for 15 minutes. The resultant precipitate was filtered, washed with 100 mL of hexane, and dried under vacuum at 25° C. to yield approximately 38 g (63%) N-methyl-N-phenyl-2,3-dihydro-1H-pyrrolizine-1-carboxamide as a beige solid. This solid was recrystallized from toluene (2-2.5 mL/g) to yield large colorless crystals of N-methyl-N-phenyl-2,3-dihydro-1H-pyrrolizine-1-carboxamide, mp 112° C. to 112.5° C.

reactant | 4-chloro-N-methyl-N-phenyl-2-(2-pyrrolyl)butanamide | ClCCC(C(=O)N(C1=CC=CC=C1)C)C=1NC=CC1 | C15H17ClN2O
reactant | sodium hydroxide | 750 mmol, 29.9 g, 3 equivalents | [OH-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | ALIQUAT® 336 | 2.01 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-phenyl-2,3-dihydro-1H-pyrrolizine-1-carboxamide | approximately 38 g, 63% | CN(C(=O)C1CCN2C=CC=C12)C1=CC=CC=C1 | C15H16N2O
